US04132786
Preparation of 4-methoxy-5-nitrobenzenesulphonyl chloride
2.5 mols (165 ml ) of chlorosulphonic acid are placed in a one-liter reaction vessel equipped with a stirring system, a thermometer and a dropping funnel and the acid is cooled to about 0° C with a mixture of ice and salt. 0.8 mol (100 ml) of 2-nitroanisole is added drop by drop and the solution is then allowed to come back to room temperature; after a contact time of 30 minutes, the reaction mixture is poured onto one fifth of its volume of crushed ice. The sulphonyl chloride precipitates in the form of an oil; this is extracted with chloroform. After evaporation of the organic phase, the sulphonyl chloride is crystallized in a benzene/petroleum ether mixture.

reactant | chlorosulphonic acid | 2.5 mols, 165 ml | ClS(=O)(=O)O | ClHO3S
reactant | 2-nitroanisole | 0.8 mol, 100 ml | [N+](=O)([O-])C1=C(C=CC=C1)OC | C7H7NO3
product | 4-methoxy-5-nitrobenzenesulphonyl chloride | COC1=CC=C(C=C1[N+](=O)[O-])S(=O)(=O)Cl | C7H6ClNO5S
